US05354755
Preparation of 3-(p-Chlorophenyl)-1-(3,4-dihydro-4-oxo-3-quinazolinyl)-1-methylurea
A mixture of 3-methylamino-4(3H)quinazolinone (2.00 g, 11.4 mmol) and 4-chlorophenyl isocyanate 2.01 g, 13.1 mmol) in 1,2-dichloroethane is heated at reflux for 72 hours, concentrated in vacuo and diluted with ether. The organic mixture is heated to reflux and filtered. The filter cake is washed with ether and dried to give the title product as a white solid, 3.61 g (96%), mp 186°-188° C.

reactant | 3-methylamino-4(3H)quinazolinone | 11.4 mmol, 2.00 g | CNN1C=NC2=CC=CC=C2C1=O | C9H9N3O
reactant | 4-chlorophenyl isocyanate | 13.1 mmol, 2.01 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 3-(p-Chlorophenyl)-1-(3,4-dihydro-4-oxo-3-quinazolinyl)-1-methylurea | ClC1=CC=C(C=C1)NC(N(C)N1C=NC2=CC=CC=C2C1=O)=O | C16H13ClN4O2
